US05286742
Preparation of Methyl 4-bromo-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carboxylate
Bromine (2.3 mL, 43.7 mmol) is added to a solution of methyl 2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carboxylate (8.44 g, 29.2 mmol) and sodium acetate (3.6 g, 43.7 mmol) in acetic acid. The reaction mixture is stirred for 30 minutes, diluted with a 0.4 wt/wt % sodium sulfite solution and extracted with diethyl ether. The organic extracts are combined, washed with saturated sodium hydrogen carbonate solution, dried over anhydrous Na2SO4 and concentrated in vacuo to obtain an oil which solidifies to give the title product as a solid (9.2 g) which is identified by 1H and 13C NMR spectral analyses.

reactant | Bromine | 43.7 mmol, 2.3 mL | BrBr | Br2
reactant | methyl 2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carboxylate | 29.2 mmol, 8.44 g | ClC1=CC=C(C=C1)C=1NC(=CC1C(=O)OC)C(F)(F)F | C13H9ClF3NO2
reactant | sodium acetate | 43.7 mmol, 3.6 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
product | Methyl 4-bromo-2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carboxylate | 9.2 g | BrC=1C(=C(NC1C(F)(F)F)C1=CC=C(C=C1)Cl)C(=O)OC | C13H8BrClF3NO2
